US05212056
Bis-[2-(N-allylamino)phenyl] disulfide (Compound 2)
NH4OH (28° Be, 100 ml) was added to N-allylbenzothiazolium bromide (10 g, 0.04 mole) in ethanol (100 ml). The resulting solution was held four days at room temperature, then poured into cold water (500 ml) and extracted twice with ethyl ether (2×100 ml). The organic solution was dried over anhydrous Na2SO4, then evaporated to dryness. The oily residue was purified by column chromatography silica gel, eptane:CH2Cl2 1:1) to give the product (yield 5 g).

reactant | NH4OH | 100 ml | [NH4+].[OH-]
reactant | N-allylbenzothiazolium bromide | 0.04 mole, 10 g | [Br-].C(C=C)[N+]1=CSC2=C1C=CC=C2
reactant | water | 500 ml | O | H2O
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | Bis-[2-(N-allylamino)phenyl] disulfide | yield 5 g | C(C=C)NC1=C(C=CC=C1)SSC1=C(C=CC=C1)NCC=C | C18H20N2S2
